US04959366
(B) 1-(4-Methanesulphonamidophenoxy)-2-[N-methyl-N-(4-aminophenethyl)amino]ethane
A solution of 1-(4-methanesulphonamidophenoxy)-2-[N-methyl-N-(4-nitrophenethyl)amino]ethane (0.9 g) in ethanol (100 ml) was stirred for 16 hours at room temperature under three atmospheres of hydrogen in the presence of Raney Nickel ("Nicat 102"-Trade Mark). The reaction mixture was filtered and evaporated to dryness. The resultant solid was crystallised from toluene to give the title compound as yellow crystals, (0.6 g), m.p. 155°-157°.

reactant | 1-(4-methanesulphonamidophenoxy)-2-[N-methyl-N-(4-nitrophenethyl)amino]ethane | 0.9 g | CS(=O)(=O)NC1=CC=C(OCCN(CCC2=CC=C(C=C2)[N+](=O)[O-])C)C=C1 | C18H23N3O5S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
product | 1-(4-Methanesulphonamidophenoxy)-2-[N-methyl-N-(4-aminophenethyl)amino]ethane | 0.6 g | CS(=O)(=O)NC1=CC=C(OCCN(CCC2=CC=C(C=C2)N)C)C=C1 | C18H25N3O3S
